US07452880B2
To a dimethylformamide, i.e., DMF, (25 mL) solution of (2-chlorophenyl)-(3,5-dichloropyrazin-2-yl)methanone (2.1 g, 7.3 mmol, 1.0 eq) under nitrogen was added 2,4-difluorophenol (0.7 mL, 7.3 mmol, 1.0 eq) and potassium carbonate (1.21 g, 8.76 mmol, 1.2 eq). The resulting mixture was stirred overnight at room temperature and then concentrated. The residue was dissolved in dichloromethane and washed with water and brine. The organic layer was dried over sodium sulfate, filtered and concentrated to give a crude oil which was purified via a chromatography using dichloromethane/hexanes (1:1) as the eluent to give [3-chloro-5-(2,4-difluorophenoxyl)pyrazin-2-yl]-(2-chlorophenyl)methanone (2.46 g, 6.45 mmol, 88% yield). Mass spec., M+1=382.

reactant | (2-chlorophenyl)-(3,5-dichloropyrazin-2-yl)methanone | 7.3 mmol, 2.1 g, 1.0 eq | ClC1=C(C=CC=C1)C(=O)C1=NC=C(N=C1Cl)Cl | C11H5Cl3N2O
reactant | 2,4-difluorophenol | 7.3 mmol, 0.7 mL, 1.0 eq | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | potassium carbonate | 8.76 mmol, 1.21 g, 1.2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | [3-chloro-5-(2,4-difluorophenoxyl)pyrazin-2-yl]-(2-chlorophenyl)methanone | 6.45 mmol, 2.46 g, 88% yield | ClC=1C(=NC=C(N1)OC1=C(C=C(C=C1)F)F)C(=O)C1=C(C=CC=C1)Cl | C17H8Cl2F2N2O2
